US04017522
N,N-bis(2-furoyloxyethyl)lauramide
N,N-bis(2-furoyloxyethyl)lauramide was prepared by the procedure of example 1 from 28 gms. (0.1 mole) of N,N-bis(2-hydroxyethyl)lauramide and 26 gms. (0.2 mole) of furoyl chloride. The structure of the final product was characterized on the basis of IR and NMR spectral analyses as described in example 1.

reactant | N,N-bis(2-hydroxyethyl)lauramide | 0.1 mole | OCCN(C(CCCCCCCCCCC)=O)CCO | C16H33NO3
reactant | furoyl chloride | 0.2 mole | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | N,N-bis(2-furoyloxyethyl)lauramide | O1C(=CC=C1)C(=O)OCCN(C(CCCCCCCCCCC)=O)CCOC(=O)C=1OC=CC1 | C26H37NO7
